US09085534B2
3-[(2-hydroxybenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 2% yield from 2-(aminomethyl)phenol and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.30 (br s, 1H), 9.67 (s, 1H), 8.20 (s, 1H), 7.79 (d, 1H, J=4.9 Hz), 7.54 (d, 1H, J=4.9 Hz), 7.20 (d, 1H, J=7.0 Hz), 7.09 (t, 1H, J=7.6 Hz), 6.84 (d, 1H, J=8.1), 6.84 (dd, 1H, J=7.4 Hz), 4.44 (s, 2H). [M+H] calc'd for C13H12N2O3, 245; found 245.

reactant | 2-(aminomethyl)phenol | NCC1=C(C=CC=C1)O | C7H9NO
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(2-hydroxybenzyl)amino]pyridine-4-carboxylic acid | 2% yield | OC1=C(CNC=2C=NC=CC2C(=O)O)C=CC=C1 | C13H12N2O3
